US05958942
1,2-Dihydro-3-methyl-1-[5-(phthalimido)pentan-1-yl)-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 5.20 g (30 mmol) of 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one in 60 ml of DMF was added, while stirring under ice-cooling, 1.44 g (36 mmol) of 60% sodium hydride (dispersion in oil). The mixture was stirred for 15 minutes at the same temperature. To the reaction mixture was added a solution of 8.89 g (30 mmol) of N-(5-bromopentyl)phthalimide in DMF (20 ml). The mixture was stirred for 1.5 hour at 110° C. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate. The extract solution was washed with water, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to afford 6.93 g of the desired compound (59.4%, pale brown solid).

reactant | 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 30 mmol, 5.20 g | CC=1N=C2N3C1C(NC3=CC=C2)=O | C9H7N3O
reactant | sodium hydride | 36 mmol, 1.44 g | [H-].[Na+]
reactant | N-(5-bromopentyl)phthalimide | 30 mmol, 8.89 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | water | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,2-Dihydro-3-methyl-1-[5-(phthalimido)pentan-1-yl)-1,4,7b-triazacyclopent[cd]inden-2-one | 6.93 g, 59.4% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCN2C(C=3C(C2=O)=CC=CC3)=O)=O | C22H20N4O3
